US04611002
O-(α-Phenyl-β-mercaptopropanoyl)mandelic acid
By substituting 3-(acetylthio)-2-phenylpropanoic acid for 3-(acetylthio)propanoic acid and mandelic acid for L-3-phenyllactic acid in the procedure of Example 5 and then submitting the product to the procedure of Example 6, O-[3-(acetylthio)-2-phenylpropanoyl]mandelic acid and the title compound is obtained.

reactant | 3-(acetylthio)propanoic acid | C(C)(=O)SCCC(=O)O | C5H8O3S
reactant | mandelic acid | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | L-3-phenyllactic acid | C1=CC=C(C=C1)C[C@@H](C(=O)O)O | C9H10O3
reactant | O-[3-(acetylthio)-2-phenylpropanoyl]mandelic acid | C(C)(=O)SCC(C(=O)OC(C(O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C19H18O5S
product | O-(α-Phenyl-β-mercaptopropanoyl)mandelic acid | C1(=CC=CC=C1)C(C(C)(S)OC(C(O)C1=CC=CC=C1)=O)=O | C17H16O4S
